US04546179
Preparation of 2-[[(4,6-Dimethylpyrimidin-2-yl)aminocarbonyl]aminosulfonyl]benzoic acid, methyl ester
A slurry of 7.0 grams (0.057 moles) of 4,6-dimethyl-2-pyrimidinamine, 6.0 grams (0.092 moles) sodium cyanate, and 13.5 grams (0.057 moles) 2-carbomethoxybenzenesulfonyl chloride in 60 ml acetonitrile was stirred 1 hour at reflux (81°). The reaction was diluted with 60 ml water, allowed to cool to room temperature and filtered. The solid was washed with 20 ml water and dried. There was obtained 16.0 grams (77.0% of theory) of the title compound. The product was 98% pure as assayed by high pressure liquid chromatography. The m.p. and IR spectrum of the title compound were identical to those of an authentic sample prepared as described in U.S. Pat. No. 4,394,506.

reactant | 4,6-dimethyl-2-pyrimidinamine | 0.057 moles, 7.0 grams | CC1=NC(=NC(=C1)C)N | C6H9N3
reactant | sodium cyanate | 0.092 moles, 6.0 grams | [O-]C#N.[Na+]
reactant | 2-carbomethoxybenzenesulfonyl chloride | 0.057 moles, 13.5 grams | C(=O)(OC)C1=C(C=CC=C1)S(=O)(=O)Cl | C8H7ClO4S
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | water | 60 ml | O | H2O
product | 2-[[(4,6-Dimethylpyrimidin-2-yl)aminocarbonyl]aminosulfonyl]benzoic acid, methyl ester | CC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C15H16N4O5S
